US06534528B1
1-hydroxy-4-methyl-6-cyclohexyl-2-pyridone;
1-hydroxy-4-methyl-6-(2,4,4-trimethylpentyl)-2-pyridone, 1-hydroxy-4-methyl-6-n-hexyl, -6-iso-hexyl-, 6-n-heptyl- or -6-isoheptyl-2-pyridone, 1-hydroxy-4-methyl-6-octyl- or -6-isooctyl-2-pyridone, in particular 1-hydroxy-4-methyl-6-cyclohexylmethyl- or 6-cyclohexylethyl-2-pyridone, it being possible for the cyclohexyl radical in each case also to carry a methyl radical, 1-hydroxy-4-methyl-6-(2-bicyclo[2,2,1]heptyl)-2-pyridone, 1-hydroxy-3,4-dimethyl-6-benzyl- or -6-dimethylbenzyl-2-pyridone or 1-hydroxy-4-methyl-6-(β-phenylethyl-2-pyridone.

reactant | 1-hydroxy-4-methyl-6-(2,4,4-trimethylpentyl)-2-pyridone | ON1C(C=C(C=C1CC(CC(C)(C)C)C)C)=O | C14H23NO2
reactant | 1-hydroxy-4-methyl-6-(2-bicyclo[2,2,1]heptyl)-2-pyridone | ON1C(C=C(C=C1C1C2CCC(C1)C2)C)=O | C13H17NO2
reactant | β-phenylethyl-2-pyridone | C1(=CC=CC=C1)CCC=1C(NC=CC1)=O | C13H13NO
product | 1-hydroxy-4-methyl-6-cyclohexyl-2-pyridone | ON1C(C=C(C=C1C1CCCCC1)C)=O | C12H17NO2
